US06498176B1
b) Ethyl 2-(3-nitro-pyridin-2-yl)-acetate
Diethyl (3-nitropyridin-2-yl)-malonate (12.5 g, 0.044 mol) was dissolved in DMSO (150 mL) and water (0.79 mL, 0.044 mol) and lithium chloride (4.65 g, 0.11 mol) were added at room temperature under nitrogen. The reaction was warmed to 100° C. 12 h and more lithium chloride (1 g) was added to the reaction. The reaction was heated for another 5 hours and cooled to room temperature. Brine (150 mL) was added to the reaction before extracting with EtOAc (3×, 275 mL each). The organics were combined and dried over sodium sulfate, then concentrated in vacuo. The resulting residue was triturated with diethyl ether and collected by filtration (8.6 g, 92% yield). 1H NMR 400 MHz (DMSO-d6) δ 8.83 (m, 1H); 8.53 (m, 1H); 7.65 (m, 1H); 4.23 (s, 2H); 4.07 (m, 2H); 1.16 (m, 3H).

reactant | Diethyl (3-nitropyridin-2-yl)-malonate | 0.044 mol, 12.5 g | [N+](=O)([O-])C=1C(=NC=CC1)C(C(=O)OCC)C(=O)OCC | C12H14N2O6
reactant | water | 0.044 mol, 0.79 mL | O | H2O
reactant | lithium chloride | 0.11 mol, 4.65 g | [Cl-].[Li+]
reactant | lithium chloride | 1 g | [Cl-].[Li+]
solvent | DMSO | 150 mL | CS(=O)C | C2H6OS
solvent | Brine | 150 mL | [Cl-].[Na+].O
product | Ethyl 2-(3-nitro-pyridin-2-yl)-acetate | 92% yield | [N+](=O)([O-])C=1C(=NC=CC1)CC(=O)OCC | C9H10N2O4
